Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.57714559071
[O:1][O:2][C:3]([C:4]([H:5])=[C:6][H:7])=[C:8]([H:9])[H:10]>>[H:5].[O:1][O:2][C:3]([C:4]#[C:6][H:7])=[C:8]([H:9])[H:10],1.99111817138
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][C:2]([O:3][C:4]([H:5])=[C:6])[C:10]([H:11])([H:12])[H:13],7.88279651504
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])=[C:7][H:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.52488233145
[H:1][C:2]=[C:3]([C:4]#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]#[C:5][O:6][H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11],2.47127132231
[H:12].[H:1][O:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.63527995532
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[C:4]([H:5])#[C:6][H:7].[O:1]=[C:2][H:3],1.34842457972
[C:9]([H:10])([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.48246865988
[C:1]#[C:2][C:3]([H:4])[O:5][H:6]>>[C:1]#[C:2].[C:3]([H:4])[O:5][H:6],7.02497910292
[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.90158439998
[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.64121828014
[H:10].[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[O:11]1>>[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[O:11]1,-4.96207958667
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:8],1.86980489678
[H:1][C:2]([H:3])[C:4]#[C:5][O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-4.57267771312
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9].[O:10]=[C:11][C:12]([H:13])([H:14])[H:15],-1.71645431616
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.52374946841
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7],1.95424628647
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.9773346879
[H:1][C:2]=[C:3]([H:4])[C@@:5]1([O:6][H:7])[C:8][C:9]1[H:10]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]#[C:9][H:10],-1.17230878087
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:11][C:9][H:10]>>[H:1][c:2]1[c:3][c:4]([C:5]([H:6])([H:7])[H:8])[c:9]([H:10])[o:11]1,-3.0058660892799995
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13],3.91257172505
[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-0.28429315545
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4],2.7590715938300003
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],2.35374548155
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12],3.8042772254
[C:6][H:7].[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-7.92544647565
[C:4](=[C:5](\[H:6])[O:7][H:8])\[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.2909982489
[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.27587315195
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:1].[O:2][C:3]#[C:4][C:5][C:6]([H:7])([H:8])[O:9][H:10],1.81414388891
